US08791139B2
Synthesis of 1-(3-chloropyridin-2-yl)-3-[5-(3,5-dichlorophenyl)-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-1H-pyrazole-5-carboxylic acid
0.9 g of methyl 1-(3-chloropyridin-2-yl)-3-[5-(3,5-dichlorophenyl)-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-1H-pyrazole-5-carboxylate were dissolved in a mixture of 10 ml of water and 20 ml of ethanol, 0.2 g of sodium hydroxide were added and the mixture was stirred at RT for 3 h. The reaction was acidified with 2N hydrochloric acid, extracted three times with methyl tert-butyl ether and dried over magnesium sulphate. The product was obtained after distillative removal of the solvent.

reactant | methyl 1-(3-chloropyridin-2-yl)-3-[5-(3,5-dichlorophenyl)-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-1H-pyrazole-5-carboxylate | 0.9 g | ClC=1C(=NC=CC1)N1N=C(C=C1C(=O)OC)C1=NOC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl | C20H12Cl3F3N4O3
reactant | sodium hydroxide | 0.2 g | [OH-].[Na+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | water | 10 ml | O | H2O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 1-(3-chloropyridin-2-yl)-3-[5-(3,5-dichlorophenyl)-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-1H-pyrazole-5-carboxylic acid | ClC=1C(=NC=CC1)N1N=C(C=C1C(=O)O)C1=NOC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl | C19H10Cl3F3N4O3
